US07399767B2
3-(2,4-Dimethoxy-pyrimidin-5-yl)-4-methyl-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-2H-chromen-7-ol
The title product was prepared as a white solid according to the procedure described in Example 34 using 5-[2-[4-(2-Chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2,4-dimethoxy-pyrimidine and morpholine as the starting material.

reactant | 5-[2-[4-(2-Chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2,4-dimethoxy-pyrimidine | ClCCOC1=CC=C(C=C1)C1OC2=CC(=CC=C2C(=C1C=1C(=NC(=NC1)OC)OC)C)OCOCC[Si](C)(C)C | C30H37ClN2O6Si
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-(2,4-Dimethoxy-pyrimidin-5-yl)-4-methyl-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-2H-chromen-7-ol | COC1=NC=C(C(=N1)OC)C=1C(OC2=CC(=CC=C2C1C)O)C1=CC=C(C=C1)OCCN1CCOCC1 | C28H31N3O6
